US07291631B2
Using General Procedure B: Reaction of 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile in CH2Cl2 with 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde and NaBH(OAc)3 gave 4-[((3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-methyl]-3-hydroxymethyl-benzamide as a white foam. 1H NMR (CDCl3) δ 1.62 (s, 6H), 2.24 (s, 3H), 2.26 (s, 3H), 3.05 (s, 2H), 3.21 (s, 2H), 3.47 (s, 1H), 3.59 (s, 2H), 4.18 (s, 2H), 5.75 (br s, 1H), 6.29 (br s, 1H), 6.89 (t, 1H, J=9.0 Hz), 7.02 (m, 3H), 7.21 (dd, 1H, J=7.5, 3.0 Hz), 7.26 (s, 1H), 7.61 (d, 1H, J=7.5 Hz), 7.66 (s, 1H), 7.87 (d, 1H, J=7.5 Hz), 8.15 (s, 1H), 8.45 (d, 1H, J=3.0 Hz). 13C NMR (CDCl3) δ 18.3, 18.5, 31.3, 42.3, 51.1, 57.78, 58.4, 58.9, 63.1, 115.6, 115.8, 122.2, 127.1, 127.6, 127.7, 130.3, 131.8, 132.5, 133.5, 133.6, 134.3, 139.5, 141.7, 142.4, 143.5, 145.5, 146.8, 146.9, 152.7, 156.7, 159.9, 163.1, 169.5. HPLC: 98%. ES-MS m/z 527 [M+H]+, 549 [M+Na]+. Anal. Calcd. for C32H35N4O2F 0.4 CH2Cl2: C, 69.41; H, 6.44; N, 9.99. Found: C, 69.15; H, 6.35; N, 9.97.

reactant | 4-{[(3,5-dimethyl-pyridin-2-ylmethyl)-amino]-methyl}-3-hydroxymethyl-benzonitrile | CC=1C(=NC=C(C1)C)CNCC1=C(C=C(C#N)C=C1)CO | C17H19N3O
reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[((3,5-dimethyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-methyl]-3-hydroxymethyl-benzamide | CC=1C(=NC=C(C1)C)CN(CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F)CC1=C(C=C(C(=O)N)C=C1)CO | C32H35FN4O2
